US05597820
To a solution of 2 -amino-5 -methoxycarbonylphenol [Tetrahedron, 46(15), 5177-5186 (1990)] (2.20 g) in dimethylformamide (30 ml) were added potassium carbonate (4.00 g) and 2-chloroacetyl chloride (1.50 g) and the mixture was stirred at room temperature for 1 hour. The reaction solution was poured into water to give precipitates, which were taken by filtration and dried to give 7-methoxycarbonyl-3-oxo-3,4-dihydro-2H-1,4-benzoxazine (2.00 g).

reactant | 2 -amino-5 -methoxycarbonylphenol | 2.20 g | NC1=C(C=C(C=C1)C(=O)OC)O | C8H9NO3
reactant | potassium carbonate | 4.00 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chloroacetyl chloride | 1.50 g | ClCC(=O)Cl | C2H2Cl2O
reactant | water | O | H2O
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 7-methoxycarbonyl-3-oxo-3,4-dihydro-2H-1,4-benzoxazine | 2.00 g | COC(=O)C1=CC2=C(NC(CO2)=O)C=C1 | C10H9NO4
